US08211907B2
To a solution of (4aRS,9bRS)-4a-methyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine (140 mg) and acetone (217 mg) in 1,2-dichloroethane was added sodium triacetoxyborohydride (792 mg), followed by stirring at room temperature for 3 days. A 1 M aqueous sodium hydroxide solution was added thereto, followed by extraction with chloroform, the organic layer was dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure to obtain (4aRS,9bRS)-1-isopropyl-4a-methyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine (138 mg) as an oily substance. This was made into a salt using an equivalent amount of methanesulfonic acid by a conventional method, washed with ethyl acetate, and collected by filtration to obtain (4aRS,9bRS)-1-isopropyl-4a-methyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine methanesulfonate (95 mg) as a colorless powder.

reactant | (4aRS,9bRS)-4a-methyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine | 140 mg | CC12C(NCCC1)C1=CC=CC=C1C2 | C13H17N
reactant | acetone | 217 mg | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 792 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | (4aRS,9bRS)-1-isopropyl-4a-methyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine | 138 mg | C(C)(C)N1C2C(CCC1)(CC1=CC=CC=C12)C | C16H23N
